Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain and BRBPR 
 
Major Surgical or Invasive Procedure:
Sigmoidoscopy

 
History of Present Illness:
Mr. ___ ___ year old gentleman with a history of Crohn's
colitis (dx ___, NIDDM, HTN, who presents with 10 days of
abdominal pain and rectal bleeding. 

Patient reports that around 10 days ago he started to experience
worsening abdominal pain especially on his right side.  He 
states
that this pain is similar to prior Crohn's flares that this is
the most severe that he has had in ___ years.  He states that the
pain is worse with eating.  States that he will often try to
"purge" by using laxatives, and that this improves his abdominal
pain.  States that he was having diarrhea due to these
medications.  He has had poor appetite though does not report 
any
vomiting. He was seen by his GI doctor on ___ who got 
a
CT scan with no acute findings. He then went to ___
where he was seen. At that time he was feeling better and had no
other ongoing symptoms as was discharged home. At the time he 
had
a CT abdomen and pelvis with no acute findings, and he was
discharged from the hospital. He was doing well until ___ in 
the
___.  He notes that he was passing the dye from CT scan and then
began to develop dark black stools and then bright red blood per
rectum.  He also notes that he was having chills and hot 
flashes,
though no fevers.  He became dizzy.  Took his blood pressure the
next morning, which read "80/50" which prompted him to come into
the ___. 

In terms of the patient's Crohn's disease he is now s/p 
ileocecal
resection in ___ and re-presented in ___ with fistulizing
disease including enterocutaneous fistulas. He underwent fistula
takedown and a possible resection at that time. In ___, he 
again
required a resection for recurrent disease. He was briefly
started on 5-ASA but is now on mesalasine. He is been discussing
with colorectal surgery and possible total colonic resection
however he is still seeking second opinions on this procedure. 
 
In the ___, initial vitals: T 98.8, HR 92, BP 103/69, RR 18, 98%
RA 
  
Labs were significant for 
- CBC: WBC 9.8, Hgb 15.4, Plt 201  
- Lytes:
137 / 100 / 51   
--------------- 183 
4.7 \ 21 \ 1.0  

- Lactate:2.3
- CRP 2.9
- Repeat CBC: WBC 7.7, Hg 14.1, Plt 142 

He was seen by GI, who felt that the differential included
Crohn's flare, infection, hemorrhoid, or ulcer

In the ___, pt received  
___ 12:32 IVF  NS 1000mL   
___ 12:32 IV CefTRIAXone 1 gm 
___ 12:32 IV Pantoprazole 40 mg 
___ 15:33 PO Mesalamine ___ mg 

Vitals prior to transfer: HR 80, BP 103/76, RR 17, 95% RA   

Currently, patient reports that he continues to have abdominal
pain.  No nausea currently.
 
Past Medical History:
- Crohn's disease
- Hypertension 
- Type 2 diabetes
 
Social History:
___
Family History:
Father with pancreatic cancer.  Paternal aunt
with bowel cancer.  Diabetes in multiple family members.
 
Physical Exam:
Admission Exam:
VITALS: T 98.5, HR 72, BP 131/83, RR 18, 99% Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Midline surgical scar.  Normal bowel sounds.  Soft nontender
to deep palpation, no rebound tenderness.  No organomegaly 
noted.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam:
VITALS: ___ 1211 Temp: 97.9 PO BP: 124/73 HR: 81 RR: 18 O2
sat: 97% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Midline surgical scar.  Normal bowel sounds. Soft,
non-distended. Minimally TTP at RLQ. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 02:53PM BLOOD WBC-7.7 RBC-4.14* Hgb-14.1 Hct-40.1 
MCV-97 MCH-34.1* MCHC-35.2 RDW-12.8 RDWSD-45.8 Plt ___
___ 09:20PM BLOOD WBC-7.4 RBC-4.13* Hgb-14.1 Hct-40.6 
MCV-98 MCH-34.1* MCHC-34.7 RDW-12.8 RDWSD-46.6* Plt ___
___ 07:30AM BLOOD ___-6.7 RBC-4.19* Hgb-14.2 Hct-40.7 
MCV-97 MCH-33.9* MCHC-34.9 RDW-12.7 RDWSD-45.1 Plt ___
___ 09:00AM BLOOD WBC-4.7 RBC-3.74* Hgb-12.5* Hct-36.8* 
MCV-98 MCH-33.4* MCHC-34.0 RDW-12.6 RDWSD-45.3 Plt ___
 
Brief Hospital Course:
# Lower GI bleed
# Abdominal pain
Pt presented w/ BRBPR. Hb was monitored. Flex sig was done on 
___ which did not show any clear e/o bleeding. Pt was monitored 
overnight, and diet was advanced w/o problems. Btw ___ am and 
___ am, Hct was 40 --> 36. Extensive disucssion w/ pt on day of 
discharge re his blood count trends. Pt is
currently completely HDS, well-appearing, ambulating and eating
comfortably. Whiel his Hct did trend down in past 24hrs, it does
seem likely that this is simply delayed equilibrium from a prior
bleed that is no longer active. Pt expressing significant
interest in going home for wknd, able to repeat back to me risks
of further bleeding and clearly understands plan of return to ER
were he to have further s/s active bleeding. Pt to f/u w/ PCP 
and
GI in next wk, will have blood counts rechecked, and likely 
outpt
___. Given all of this, will d/c this afternoon to home w/ plan
for outpt f/u. 

# Possibility of new cirrhosis
Abdominal CT and labs show possible e/o cirrhosis. This was 
discussed with the pt's primary GI doctor who will f/u on this 
in the outpt setting. 

# Dispo: Pt will discharge today on ___ and f/u w/ his PCP and 
GI doctor in the next week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ mg PO BID 
2. Lisinopril 40 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. amLODIPine 10 mg PO DAILY 
5. GlipiZIDE XL 10 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  GlipiZIDE XL 10 mg PO DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Lisinopril 40 mg PO DAILY  
5.  Mesalamine ___ mg PO BID  
6.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Gastrointestinal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for new abdominal pain and bleeding. We 
performed a sigmoidoscopy, which was reassuring, and now you are 
safe to go home. 

We wish you the best with your health.
___ Medicine
 
Followup Instructions:
___